US07713973B2
N-(4-(8-(5-Methyl-1H-pyrazol-3-ylamino)imidazo[1,2-a]pyrazin-6-ylthio)phenyl)cyclopropanecarboxamide
(6-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (21 mg, 0.072 mmol), N-(4-mercaptophenyl)cyclopropanecarboxamide (28 mg, 0.145 mmol) and potassium carbonate (20 mg) were mixed in DMF (1 ml). This mixture was reacted in a microwave reactor at 170° C. for 15 minutes. DMF was removed in vacuo and the residue was purified by HPLC to afford the title compound Example 8 as an off-white solid. (11.9 mg). 1H NMR (400 MHz, DMSO) δ 10.39 (s, 1H) 7.99 (d, J=0.8 Hz, 1H) 7.96 (s, 1H) 7.70 (s, 1H) 7.69 (d, J=8.4 Hz, 2H) 7.49 (d, J=8.4 Hz, 2H) 6.03 (s, 1H) 2.14 (s, 3H) 1.75-1.82 (m, 1H) 0.77-0.81 (m, 2H). [M+H] calc'd for C20H19N7OS, 406; found, 406.

reactant | (6-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 0.072 mmol, 21 mg | BrC=1N=C(C=2N(C1)C=CN2)NC2=NNC(=C2)C | C10H9BrN6
reactant | N-(4-mercaptophenyl)cyclopropanecarboxamide | 0.145 mmol, 28 mg | SC1=CC=C(C=C1)NC(=O)C1CC1 | C10H11NOS
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(4-(8-(5-Methyl-1H-pyrazol-3-ylamino)imidazo[1,2-a]pyrazin-6-ylthio)phenyl)cyclopropanecarboxamide | CC1=CC(=NN1)NC=1C=2N(C=C(N1)SC1=CC=C(C=C1)NC(=O)C1CC1)C=CN2 | C20H19N7OS
